US04820691
A. N-[(1,1-Dimethoxyethoxy)carbonyl]-1-[(4-methylphenyl)sulfonyl]-L-histidine
N-[(1,1-Dimethoxyethoxy)carbonyl]-L-histidine (12.7 g, 50 mmol) was dissolved in a solution of sodium carbonate (10.6 g, 100 mmol) in 150 ml water and cooled to 10°. p-Toluenesulfonylchloride (12.8 g, 67 mmol) was added in very small portions over a period of 30 minutes while maintaining vigorous stirring and controlling the temperature between 10°-15°. After the addition was complete, the reaction mixture was warmed to room temperature and stirring continued for an additional 4 hours. The reaction mixture was extracted twice with ethyl ether (75 ml) and the organic portions were discarded. The aqueous layer was acidified with 1N hydrochloric acid, extracted twice with ethyl acetate (150 ml) and the combined organic extracts were dried and concentrated to give an oily residue. Crystallization from ethyl acetate afforded 9.42 grams of the title A compound. m.p.=120°, [α]D =15.3° (c=1.66, CH3OH).

reactant | N-[(1,1-Dimethoxyethoxy)carbonyl]-L-histidine | 50 mmol, 12.7 g | COC(C)(OC(=O)N[C@@H](CC1=CNC=N1)C(=O)O)OC | C11H17N3O6
reactant | sodium carbonate | 100 mmol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-Toluenesulfonylchloride | 67 mmol, 12.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | CH3OH | CO | CH4O
solvent | water | 150 ml | O | H2O
product | N-[(1,1-Dimethoxyethoxy)carbonyl]-1-[(4-methylphenyl)sulfonyl]-L-histidine | COC(C)(OC(=O)N[C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O)OC | C18H23N3O8S
